US08754103B2
To a round bottom flask was added 5-bromo-2-hydrazinopyrimidine (2.65 mmole) in dichloromethane (40 mL). To this solution was added isobutyraldehyde (2.65 mmole) followed by 2 drops of acetic acid. The reaction mixture was stirred at room temperature for 2 hours after which was added iodobenzene diacetate (2.77 mmole). The resulting reaction mixture was stirred at RT for another 2 hours. The mixture was evaporated in vacuo and purified by preparative TLC eluting with 5% methanol and dichloromethane mixture to give 6-bromo-3-isopropyl-[1,2,4]triazolo[4,3-a]pyrimidine.

reactant | 5-bromo-2-hydrazinopyrimidine | 2.65 mmole | BrC=1C=NC(=NC1)NN | C4H5BrN4
reactant | isobutyraldehyde | 2.65 mmole | C(C(C)C)=O | C4H8O
reactant | iodobenzene diacetate | 2.77 mmole | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 6-bromo-3-isopropyl-[1,2,4]triazolo[4,3-a]pyrimidine | BrC=1C=NC=2N(C1)C(=NN2)C(C)C | C8H9BrN4
